US05861419
Step 1: 2-Amino-3-bromo-5-methylpyridine
To a solution of 2-amino-5-picoline (5 g) in acetic acid (40 mL) at r.t. was added bromine (2.6 mL) slowly. After 1 h, the acid was neutralized by the careful addition of sodium hydroxide (10N) at 0°0 C. The resulting orange precipitate was dissolved in ether and washed successively with saturated potassium carbonate, saturated Na2S2O3 and brine, dried and concentrated. Flash chromatography (eluting with hexane/ethyl acetate, 3:2 v/v) of the residual solid provided the title compound as a pale yellow solid (7.1 g).

reactant | 2-amino-5-picoline | 5 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | bromine | 2.6 mL | BrBr | Br2
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 2-Amino-3-bromo-5-methylpyridine | 7.1 g | NC1=NC=C(C=C1Br)C | C6H7BrN2
